US05744488
Methyl 4-(2-t-butoxycarbonylaminoethyl)-2-methyl-3-(3-pyridylmethyl)-1H-indole-1-propanoate
Treatment of methyl 4-(2-carboxyethyl)-2-methyl-3-(3-pyridylmethyl)-1H-indole-1-propanoate (3.70 g) with diphenylphosphoryl azide (2.95 g), triethylamine (1.08 g), and t-butanol (30 ml) as described in Preparation 29 gave the title compound as an oil (3.46 g), Rf. 0.5 (SS2). δ(CDCl3): 1.44(9H,s), 2.37(3H,s), 2.77(2H,t), 2.87(2H,t), 3.23(2H,m), 3.68(3H,s), 4.28(2H,s), 4.45(2H,t), 4.53(1H,br), 6.82(1H,d), 7.10-7.13(2H,m), 7.21(1H,d), 7.29(1H,d), 8.38-8.42(2H,m).

reactant | methyl 4-(2-carboxyethyl)-2-methyl-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 3.70 g | C(=O)(O)CCC1=C2C(=C(N(C2=CC=C1)CCC(=O)OC)C)CC=1C=NC=CC1 | C22H24N2O4
reactant | diphenylphosphoryl azide | 2.95 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.08 g | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 30 ml | C(C)(C)(C)O | C4H10O
product | Methyl 4-(2-t-butoxycarbonylaminoethyl)-2-methyl-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 3.46 g | C(C)(C)(C)OC(=O)NCCC1=C2C(=C(N(C2=CC=C1)CCC(=O)OC)C)CC=1C=NC=CC1 | C26H33N3O4
